US05516788
cis-5-Acetyl-4b,5,9b,10-tetrahydro-2-hydroxy-1,3-dimethylindeno-[1,2-b]indole.
Under anhydrous conditions a solution of 5-acetyl-4b,5,9b,10-tetrahydro-2-methoxy-3,3-dimethylindeno[1,2-b]indole (109 mg, 0.35 mmol) in dichloromethane (1 cm3) was cooled to -78° C., and a solution of boron tribromide in dichloromethane (0.7 cm3 of 1M solution) added. The reaction was allowed to warm to room temperature, and stirred for 90 minutes, where-upon water (5 cm3) was cautiously added. After stirring for a further 10 minutes, the mixture was diluted, and extracted with dichloromethane. The combined dichloromethane extracts were dried (Na2SO4) and filtered through a pad of "flash" silica eluting further with 30% EtOAc/60°-80° petrol. Removal of solvent yielded a colourless solid. Yield: 96 mg, 94%. M.p. 205° C. (dec). 1H NMR (CDCl3) δ: [mixture of E/Z isomers] 8.06 (1/2H, d, J=7.1 Hz), 8.05-7.00 (41/2H, m), 4.23 and 5.75 (1H, d, J=8.1 and 7.5 Hz), 4.6 (1H, br), 4.22-4.08 (1H,2×ddd), 3.45-3.26 (1H, m), 3.25-3.05 (1H, 2×dd), 2.63 and 2.52 (3H, s), 2.20 and 2.17 (3H, s), 2.13 and 2.11 (3H, s).

reactant | 5-acetyl-4b,5,9b,10-tetrahydro-2-methoxy-3,3-dimethylindeno[1,2-b]indole | 0.35 mmol, 109 mg | C(C)(=O)N1C2C(C=3C=CC=CC13)CC1=CC(C(C=C12)(C)C)OC | C20H23NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 5 cm3 | O | H2O
reactant | dichloromethane | 1 cm3 | ClCCl | CH2Cl2
reactant | dichloromethane | 1M, 0.7 cm3 | ClCCl | CH2Cl2
product | cis-5-Acetyl-4b,5,9b,10-tetrahydro-2-hydroxy-1,3-dimethylindeno-[1,2-b]indole | C(C)(=O)N1[C@H]2[C@@H](C=3C=CC=CC13)CC1=C(C(=C(C=C12)C)O)C | C19H19NO2
